US20010000345A1
A mixture of 1.6 g of 5-chloro-2,4-dinitrotoluene and 20 mL of N,N-dimethyl-thioformamide is heated to 120° C. for 16 hours. After cooling to room temperature, the mixture is purified by flash column chromatography on silica gel, eluting with 3% to 10% ethyl acetate/hexanes to provide 0.78 g of 6-methyl-5-nitrobenzothiazole as a yellow solid.

reactant | 5-chloro-2,4-dinitrotoluene | 1.6 g | ClC=1C(=CC(=C(C1)C)[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN2O4
reactant | N,N-dimethyl-thioformamide | 20 mL | CN(C=S)C | C3H7NS
product | 6-methyl-5-nitrobenzothiazole | 0.78 g | CC1=CC2=C(N=CS2)C=C1[N+](=O)[O-] | C8H6N2O2S
